US07598393B2
Step A. Methyl 3-nitro-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]benzoate
The title compound was prepared according to the procedure described in Step A of Example 5 from methyl 4-chloro-3-nitrobenzoate (Lancaster Synthesis Ltd.) and 4-aminomethyltetrahydropyran (Apollo Scientific Ltd.).

reactant | methyl 4-chloro-3-nitrobenzoate | ClC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | 4-aminomethyltetrahydropyran | NCC1CCOCC1 | C6H13NO
product | Methyl 3-nitro-4-[(tetrahydro-2H-pyran-4-ylmethyl)amino]benzoate | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1NCC1CCOCC1 | C14H18N2O5
